US09381191B2
In a reactor equipped with a filter and an emptying system and placed on a vortex, were introduced 0.33 g (0.656 mmol) of cyanoborohydride resin. The resin was swelled in 3 ml of dichloromethane, the mixture was stirred at r.t. for 10 min and then dichloromethane was removed by filtration. The operation was repeated a second time and then a mixture of 0.2 g of (3-((3-(trifluoromethyl)phenyl)ethynyl) imidazo[1,2-a]pyridin-2-yl) methanamine and 0.055 g (0.596 mmol) of 2-oxoacetic acid hydrate solubilised in 3 ml of methanol was added. The mixture was stirred under a slow vortex at r.t. for 24 h. The resin was removed by filtration, washed with 15 ml of methanol, 15 ml of dichloromethane and then again 15 ml of methanol. The obtained filtrate was concentrated in vacuo and the residue was purified by flash chromatography on a silica gel cartridge (eluent: dichloromethane/methanol/aqueous ammonia (20% by mass), 80/20/2, v/v/v). 0.049 g (yield=22%) of 2-(((3-((3-(trifluoromethyl)phenyl)ethynyl) imidazo[1,2-a]pyridin-2-yl)methyl)amino) acetic acid were obtained as a white solid. LC-MS: m/z=374 (MH+); UV purity at 254 nm=98%. 1H NMR (300 MHz, DMSO) δ 8.76 (d, J=6.7 Hz, 1H), 8.13 (s, 1H), 8.01 (d, J=7.6 Hz, 1H), 7.78 (d, J=7.9 Hz, 1H), 7.69 (dd, J=8.3, 7.1 Hz, 2H), 7.53-7.42 (m, 1H), 7.16 (td, J=6.8, 1.0 Hz, 1H), 4.17 (s, 2H), 3.31 (s, 6H).

reactant | cyanoborohydride | 0.656 mmol, 0.33 g | C(#N)[BH3-]
reactant | (3-((3-(trifluoromethyl)phenyl)ethynyl) imidazo[1,2-a]pyridin-2-yl) methanamine | 0.2 g | FC(C=1C=C(C=CC1)C#CC1=C(N=C2N1C=CC=C2)CN)(F)F | C17H12F3N3
reactant | 2-oxoacetic acid hydrate | 0.596 mmol, 0.055 g | O.O=CC(=O)O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | methanol | 3 ml | CO | CH4O
product | 2-(((3-((3-(trifluoromethyl)phenyl)ethynyl) imidazo[1,2-a]pyridin-2-yl)methyl)amino) acetic acid | 0.049 g, yield=22% | FC(C=1C=C(C=CC1)C#CC1=C(N=C2N1C=CC=C2)CNCC(=O)O)(F)F | C19H14F3N3O2
